US05124326
2.11. 4-[3-(3,5-Dimethylpiperidino) propyl]benzylcyanide
In a 250 ml round bottom flask 5.3 g of 4-(3-chloropropyl)benzylcyanide, 4.4 g of sodium iodide, 62.2 g of 3,5-dimethylpiperidine and 32.9 ml of acetone are mixed together and boiled for 1 hour at reflux.

reactant | 4-(3-chloropropyl)benzylcyanide | 5.3 g | ClCCCC1=CC=C(CC#N)C=C1 | C11H12ClN
reactant | sodium iodide | 4.4 g | [I-].[Na+]
reactant | 3,5-dimethylpiperidine | 62.2 g | CC1CNCC(C1)C | C7H15N
solvent | acetone | 32.9 ml | CC(=O)C | C3H6O
product | 4-[3-(3,5-Dimethylpiperidino) propyl]benzylcyanide | CC1CN(CC(C1)C)CCCC1=CC=C(CC#N)C=C1 | C18H26N2
